US05102667
A solution of 1,1-bis-(3-tolyl)-2-methoxyethanol (24.66 g) (obtained by reaction of (3-tolyl)magnesium bromide on methyl 2-methoxyacetate in tetrahydrofuran) in formic acid (30 cc) is refluxed for 12 hours, cooled and poured into a mixture of saturated sodium carbonate solution (400 cc) and ethyl acetate (400 cc). The organic phase is washed with water (3×300 cc) and with saturated sodium chloride solution (300 cc), then dried and concentrated to dryness under reduced pressure (2.7 kPa) to give bis-(3-tolyl)acetaldehyde (20.45 g) in the form of a yellow oil.

reactant | 1,1-bis-(3-tolyl)-2-methoxyethanol | 24.66 g | C1(=CC(=CC=C1)C(COC)(O)C=1C=C(C=CC1)C)C | C17H20O2
reactant | sodium carbonate | 400 cc | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 400 cc | C(C)(=O)OCC | C4H8O2
solvent | formic acid | 30 cc | C(=O)O | CH2O2
product | bis-(3-tolyl)acetaldehyde | 20.45 g | C1(=CC(=CC=C1)C(C=O)C=1C=C(C=CC1)C)C | C16H16O
